US06881733B1
1-benzyl-3-methyl-4-hydroxy-4-(4,5-difluorobenzofur-7-yl)piperidine
Beginning with 4.0 gm (17.17 mMol) 4,5-difluoro-7-bromobenzofuran and 3.8 gm (18.88 mMol) 1-benzyl-3-methyl-4-oxopiperidine, 2.6 gm (43%) of the desired compound were recovered as a yellow oil essentially as described in EXAMPLE 3.

reactant | 4,5-difluoro-7-bromobenzofuran | 17.17 mMol, 4.0 gm | FC1=C(C=C(C2=C1C=CO2)Br)F | C8H3BrF2O
reactant | 1-benzyl-3-methyl-4-oxopiperidine | 18.88 mMol, 3.8 gm | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C | C13H17NO
product | 1-benzyl-3-methyl-4-hydroxy-4-(4,5-difluorobenzofur-7-yl)piperidine | 2.6 gm, 43% | C(C1=CC=CC=C1)N1CC(C(CC1)(C1=CC(=C(C=2C=COC21)F)F)O)C | C21H21F2NO2
